US05135955
A. Preparation of hexyloxybenzaldehyde
To 250 ml of DMF containing 207 g of anhydrous potassium carbonate (1.5M) was added 122 g of 4-hydroxybenzaldehyde and 181.6 g of hexylbromide. The resultant mixture was heated at reflux temperature overnight after which it was poured into cold water and extracted with ethylacetate. The extracts were dried and evaporated in vacuo to afford the desired subtitled intermediate (80% yield), b.p. 110°-115° C.

reactant | DMF | 250 ml, 207 g | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.5M | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxybenzaldehyde | 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hexylbromide | 181.6 g | C(CCCCC)Br | C6H13Br
solvent | water | O | H2O
product | hexyloxybenzaldehyde | 80% yield | C(CCCCC)OC1=C(C=O)C=CC=C1 | C13H18O2
